US04565425
A solution of 1.35 g of p-[trans-4-(trans-1-pentenyl)cyclohexyl]acetophenone in 16 ml of ethanol and 16 ml of diethylene glycol was treated with 0.486 ml of hydrazine hydrate while gassing with argon and then heated to reflux (bath temperature 110° C.) while stirring for 1.5 hours. The mixture was subsequently treated with 550 mg of solid potassium hydroxide, the bath temperature was increased to 210° C. and the ethanol was distilled off. After 2.5 hours at 210° C., the reaction was interrupted and the mixture was partitioned three times in water/petroleum ether. The organic extracts were washed twice with water, dried over magnesium sulphate and evaporated. Chromatographic separation of the residue (1.23 g) on silica gel with hexane as the eluent gave 1.16 g (91%) of 4-ethyl-1-[trans-4-(trans-1-pentenyl)cyclohexyl]benzene as a colourless oil; m.p. (C-I) -3.1° C.

reactant | p-[trans-4-(trans-1-pentenyl)cyclohexyl]acetophenone | 1.35 g | C(=C\CCC)/[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(C)=O | C19H26O
reactant | hydrazine hydrate | 0.486 ml | O.NN
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 16 ml | C(C)O | C2H6O
solvent | diethylene glycol | 16 ml | C(COCCO)O | C4H10O3
product | 4-ethyl-1-[trans-4-(trans-1-pentenyl)cyclohexyl]benzene | 1.16 g, 91% | C(C)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)\C=C\CCC | C19H28
